US06013658
(R)-2-(3-(tert-Butoxycarbonylaminomethyl)benzoylamino)-3-(2-naphthyl)propionic acid methyl ester (8.8 g, 19.1 mmol) was dissolved in methanol (100 ml) and lithium hydroxide (0.55 g, 22.2 mmol) was added. After 2 h dichloromethane (200 ml), water (200 ml) and 3 M sodium hydrogen sulfate (50 ml) were added. The organic phase was separated and washed with water (100 ml). The organic phase was dried (magnesium sulfate) and the solvent removed in vacuo to yield 7.9 g of (R)-2-(3-(tert-butoxycarbonylaminomethyl)benzoylamino)-3-(2-naphthyl)propionic acid.

reactant | (R)-2-(3-(tert-Butoxycarbonylaminomethyl)benzoylamino)-3-(2-naphthyl)propionic acid methyl ester | 19.1 mmol, 8.8 g | COC([C@@H](CC1=CC2=CC=CC=C2C=C1)NC(C1=CC(=CC=C1)CNC(=O)OC(C)(C)C)=O)=O | C27H30N2O5
reactant | lithium hydroxide | 22.2 mmol, 0.55 g | [OH-].[Li+]
reactant | dichloromethane | 200 ml | ClCCl | CH2Cl2
reactant | sodium hydrogen sulfate | 3 M, 50 ml | S(=O)(=O)(O)[O-].[Na+]
solvent | methanol | 100 ml | CO | CH4O
solvent | water | 200 ml | O | H2O
product | (R)-2-(3-(tert-butoxycarbonylaminomethyl)benzoylamino)-3-(2-naphthyl)propionic acid | 7.9 g | C(C)(C)(C)OC(=O)NCC=1C=C(C(=O)N[C@@H](C(=O)O)CC2=CC3=CC=CC=C3C=C2)C=CC1 | C26H28N2O5
